US05254716
A mixture of 25.7 ml (45.14 g, 0.238 mol) of TiCl4 in 57 ml CCl4 was added dropwise to 475 ml of mechanically-stirring THF that had been cooled to -1.5° C. The mechanical stirring and dropwise addition were done to keep the temperature <3.5° C. The resulting yellow suspension was slowly combined with a second mixture of 27.8 grams (0.119 mol) of 3-(4-(2,2-dimethylethyl)carboxyphenyl)-1-propanal and 19 grams (0.119 mol) of diethyl malonate in 57 ml of dry THF. The combination is performed slowly to maintain a temperature <3° C. At this point, 38.3 ml (37.7 g, 0.476 ml) of dry pyridine were added to the newly combined mixtures. This was stirred for 1 hour at 0°-3° C. and then allowed to come to room temperature overnight. The next day the mixture was mixed with 750 ml of water and extracted with 300 ml of ether. The aqueous phase was extracted with ether (2×250 ml) and the extracts were combined. The combined extracts were consecutively washed with 250 ml portions of water, 0.5N HCl, water, saturated NaHCO3, saturated NaCl and finally dried (Na2SO4). Evaporation of the solvent gave 43.3 grams (97%) of 2-ethylcarboxy-5-(4-(2,2-dimethylethyl)carboxyphenyl)-2-pentenoic acid ethyl ester as an oil, 85.7% pure (HPLC). Selected data: 1H NMR (CDCl3) δ 7.90 (d, J=8.1 Hz, 2H), 7.21 (d, J=8.1 Hz, 2H), 6.97 (t, J=8.4 Hz, 1H), 4.24 (m, 4H), 2.83 (t, J=7.1 Hz, 2H), 2.64 (t, J=7.1 Hz, 2H), 1.57 (s, 9H), 1.26 (m, 6H); IR (CHCl3) 1710 cm-1, MS(FD) m/z 377 (M+). An analytical sample was prepared by flash chromatography (hexane - ethyl acetate 8:2). Anal. Calcd for C21H28O6 : C, 67.00; H, 7.50. Found: C, 67.06: H 7.58.

reactant | 3-(4-(2,2-dimethylethyl)carboxyphenyl)-1-propanal | 0.119 mol, 27.8 grams | CC(CC1=CC(=C(C=C1)CCC=O)C(=O)O)C | C14H18O3
reactant | diethyl malonate | 0.119 mol, 19 grams | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | pyridine | 38.3 ml, 37.7 g | N1=CC=CC=C1 | C5H5N
reactant | water | 750 ml | O | H2O
reactant | THF | 57 ml | C1CCOC1 | C4H8O
reactant | THF | 475 ml | C1CCOC1 | C4H8O
solvent | CCl4 | 57 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | TiCl4 | 0.238 mol, 25.7 ml, 45.14 g | Cl[Ti](Cl)(Cl)Cl
product | 2-ethylcarboxy-5-(4-(2,2-dimethylethyl)carboxyphenyl)-2-pentenoic acid ethyl ester | 43.3 grams, 97% | C(C)OC(C(=C(CCC1=C(C=C(C=C1)CC(C)C)C(=O)O)C(=O)O)CC)=O | C21H28O6
